US07294760B2
The reaction conditions for the PCR followed a protocol recommended by the enzyme manufacturer (PE Applied Biosystems, Foster City, Calif.). The Banyuls promoter was isolated from Arabidopsis genomic DNA using 30 nanomoles each of primers Ban+1500 and Ban GSP1, 10 micromoles each of dATP, dCTP, dGTP, and TTP, 2.5 units of AmpliTaq Gold in 1×Opti-Prime™ Buffer 3 (Stratagene, La Jolla, Calif.). After an initial incubation at 95° C. for 10 minutes, 30 cycles of PCR were performed with 92° C. for 30 seconds, 56° C. for 30 seconds, and 72° C. for 2 minutes followed by 1 cycle of 72° C. for 7 minutes.

reactant | dCTP | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)N=C(N)C=C1)O | C9H16N3O13P3
reactant | dGTP | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H](C[C@@H](O1)N1C=NC=2C(=O)NC(N)=NC12)O | C10H16N5O13P3
catalyst | Gold | [Au] | Au
product | dATP | 10 micromoles | C1=NC(=C2C(=N1)N(C=N2)[C@H]3C[C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OP(=O)(O)O)O)N | C10H16N5O12P3
